US03974277
2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline (IV)
A 500 ml 3 necked flash fitted with a stirrer, reflux condenser and protected by a calcium chloride trap was charged with 9.0 g of phosphorus pentachloride (0.043 mole) and 70 ml of phosphorus oxychloride and the mixture stirred. To this 11.3 g (0.04 mole) of 2-[2-(5-nitro-2-furyl)vinyl] -4-(3H)quinazolinone was added and rinsed into the flask with 15 ml of phosphorus oxychloride. The mixture was heated under reflux for 4 hours, cooled in an ice bath and diluted with 150 ml of diethyl ether. The 2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline which precipitated was collected by filtration, washed with 100-150 ml of diethyl ether, slurried in 100 ml of diethyl ether and then refiltered to obtain 8.09 g of the desired product melting at 252°-4°C with decomposition. The product was recrystallized from toluene (large volumes are required) or was extracted in a Soxhlet extractor with toluene to obtain yellow crystals of 2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline melting at 264°-5°C with decomposition.

reactant | phosphorus pentachloride | 0.043 mole, 9.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-[2-(5-nitro-2-furyl)vinyl] -4-(3H)quinazolinone | 0.04 mole, 11.3 g | [N+](=O)([O-])C1=CC=C(O1)C=CC1=NC2=CC=CC=C2C(N1)=O | C14H9N3O4
solvent | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline | 8.09 g | [N+](=O)([O-])C1=CC=C(O1)C=CC1=NC2=CC=CC=C2C(=N1)Cl | C14H8ClN3O3
